US05192778
A mixture of 25 g of 2-nitroiminoimidazolidine, 100 g of ethyl orthoformate and 25 ml of 1,3-dimethyl-2-imidazolidinone was heated under reflux for 3 hours. After cooling to room temperature, the mixture was poured into water, followed by extraction with ethyl acetate. After washing with water, the extract was dried with anhydrous magnesium sulfate, after which the solvent was distilled off under reduced pressure. The resultant crystals were sludged with ether to give 32 g of 1-diethoxymethyl-2-nitroiminoimidazolidine.

reactant | 2-nitroiminoimidazolidine | 25 g | [N+](=O)([O-])N=C1NCCN1 | C3H6N4O2
reactant | ethyl orthoformate | 100 g | C(OCC)([O-])[O-]
reactant | 1,3-dimethyl-2-imidazolidinone | 25 ml | CN1C(N(CC1)C)=O | C5H10N2O
solvent | water | O | H2O
product | 1-diethoxymethyl-2-nitroiminoimidazolidine | 32 g | C(C)OC(N1C(NCC1)=N[N+](=O)[O-])OCC | C8H16N4O4
